* test_04v_idon.cir — NMOS/PMOS Id_on/Id_off @ VDD=0.40V
.include '/Users/bruce/CLAUDE/asap5/spice/xyce_models/nmos_lvt_tt_cal.pm'
.include '/Users/bruce/CLAUDE/asap5/spice/xyce_models/pmos_lvt_tt_cal.pm'
.OPTIONS DEVICE GMIN=1e-12
.OPTIONS NONLIN RELTOL=1e-4 ABSTOL=1e-9
.OPTIONS MEASURE MEASDGT=5
vin gate 0 dc 0
vdn dn 0 dc 0.4
vsn sn 0 dc 0
mn1 dn gate sn sn nmos_lvt l=16n nfin=2
vdp dp 0 dc 0
vsp sp 0 dc 0.4
mp1 dp gate sp sp pmos_lvt l=16n nfin=2
.DC vin 0 0.4 0.001
.PRINT DC I(vdn) I(vdp)
.MEASURE DC idon_n FIND I(vdn) AT=0.4
.MEASURE DC idoff_n FIND I(vdn) AT=0.0
.MEASURE DC idon_p FIND I(vdp) AT=0.0
.MEASURE DC idoff_p FIND I(vdp) AT=0.4
.END
